US07834181B2
2-Fluoro-8-(6-chloro-benzo[1,3]dioxol-5-ylmethyl)-9-(pent-4-ynyl)adenine:
A solution of 2-Fluoro-8-(6-chloro-benzo[1,3]dioxol-5-ylmethyl)adenine (11 mg, 0.034 mmol), Cs2CO3 (11 mg, 0.034 mmol) and pent-4-ynyl tosylate (10.5 mg, 0.044 mmol) in anhydrous DMF (85 L) was stirred at 50° C. for 1 h. Following solvent removal, the product (4.2 mg, 31.9%) was collected through silica gel column purification (EtOAc:hexanes:CHCl3:i-PrOH at 10:20:20:1). 1H NMR (400 MHz, CDCl3) 6.89 (s, 1H), 6.61 (s, 1H), 5.98 (bs, 2H), 5.96 (s, 2H), 4.27 (s, 2H), 4.13 (t, J=7.5 Hz, 2H), 2.24-2.10 (m, 2H), 2.00-1.91 (m, 3H); 13C NMR (100 MHz, CDCl3) 1597, 158.0, 156.3, 150.6, 147.7, 147.2, 126.2, 125.3, 110.0, 102.0, 82.3, 69.9, 42.2, 31.4, 28.1, 15.8; MS m/z 388.1 (M+H)+. HPLC: (a) 98.1% (65% water—35% acetonitrile); (b) 97.0% (35% to 45% acetonitrile).

reactant | 2-Fluoro-8-(6-chloro-benzo[1,3]dioxol-5-ylmethyl)adenine | 0.034 mmol, 11 mg | FC1=NC(=C2NC(=NC2=N1)CC1=CC2=C(OCO2)C=C1Cl)N | C13H9ClFN5O2
reactant | Cs2CO3 | 0.034 mmol, 11 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | pent-4-ynyl tosylate | 0.044 mmol, 10.5 mg | S(=O)(=O)(OCCCC#C)C1=CC=C(C)C=C1 | C12H14O3S
solvent | DMF | 85 L | CN(C)C=O | C3H7NO
product | 2-Fluoro-8-(6-chloro-benzo[1,3]dioxol-5-ylmethyl)-9-(pent-4-ynyl)adenine | FC1=NC(=C2N=C(N(C2=N1)CCCC#C)CC1=CC2=C(OCO2)C=C1Cl)N | C18H15ClFN5O2
